US04556413
A solution of 30.0 g of N-(5-acetoxy-2-nitrobenzoyl)-S,S-dimethyl-sulphoximine in 500 ml of methanol is treated with 150 ml of 2N sodium hydroxide and the mixture is stirred at room temperature for 20 minutes. The resulting solution is then adjusted to about pH 4 with 100 ml of 2N hydrochloric acid and the methanol is distilled off under reduced pressure. The residue is saturated with sodium chloride solution and extracted with ethyl acetate, and the organic phase is dried and evaporated. The crystalline residue is then recrystallized from hot ethyl acetate. There is obtained N-(5-hydroxy-2-nitrobenzoyl)-S,S-dimethyl-sulphoximine as yellow crystals, m.p. 146°-149° C.; 1H-NMR (CMSO): 7.90 (d,1H), 6.95 (d,1H), 6.90 (q,1H), 3.44 (s,6H).

reactant | N-(5-acetoxy-2-nitrobenzoyl)-S,S-dimethyl-sulphoximine | 30.0 g | C(C)(=O)OC=1C=CC(=C(C(=O)N=S(=O)(C)C)C1)[N+](=O)[O-] | C11H12N2O6S
reactant | sodium hydroxide | 2N, 150 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | methanol | 500 ml | CO | CH4O
product | N-(5-hydroxy-2-nitrobenzoyl)-S,S-dimethyl-sulphoximine | OC=1C=CC(=C(C(=O)N=S(=O)(C)C)C1)[N+](=O)[O-] | C9H10N2O5S
